US07244278B2
3,4,5-Trimethyl-2(3H)thiazolone hydrazone hydrochloride was prepared from 4-methyl-3-thiosemicarbazide and 3-chloro-2-butanone by a method similar to that used in Example (1a).

reactant | 4-methyl-3-thiosemicarbazide | CNC(NN)=S | C2H7N3S
reactant | 3-chloro-2-butanone | ClC(C(C)=O)C | C4H7ClO
product | 3,4,5-Trimethyl-2(3H)thiazolone hydrazone hydrochloride | Cl.CN1C(SC(=C1C)C)=NN | InChI=1S/C6H11N3S.ClH/c1-4-5(2)10-6(8-7)9(4)3;/h7H2,1-3H3;1H
